US06759554B2
N-(4-Benzylaminocarbonylphenyl)-N-methylformamide
An oven-dried resealable Schlenk tube was charged with CuI (2.0 mg, 0.0105 mmol, 1.0 mol %), 4-iodo-N-benzylbenzamide (350 mg, 1.04 mmol), K3PO4 (450 mg, 2.12 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (13 μL, 0.108 mmol, 11 mol %), dodecane (235 μL), N-methylformamide (74 μL, 1.27 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×15 cm; ethyl acetate-dichloromethane 2:1; 20 mL fractions). Fractions 7-18 provided 273 mg (98% yield) of the product as white crystals. 1H NMR (400 MHz, CDCl3): δ 8.57 (s, 1H), 7.90−7.86 (m, 2H), 7.40−7.29 (m, 5H), 7.25−7.20 (m, 2H), 6.62 (br s, 1H), 4.66 (d, J=5.7 Hz, 2H), 3.35 (s, 3H). 13C NMR (100 MHz, CDCl3): δ 166.6, 162.3, 145.2, 138.4, 132.2, 129.2, 129.0, 128.3, 128.1, 121.5, 44.6, 32.0.

reactant | 4-iodo-N-benzylbenzamide | 1.04 mmol, 350 mg | IC1=CC=C(C(=O)NCC2=CC=CC=C2)C=C1 | C14H12INO
reactant | K3PO4 | 2.12 mmol, 450 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.108 mmol, 13 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | dodecane | 235 μL | CCCCCCCCCCCC | C12H26
reactant | N-methylformamide | 1.27 mmol, 74 μL | CNC=O | C2H5NO
catalyst | CuI | 0.0105 mmol, 2.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-(4-Benzylaminocarbonylphenyl)-N-methylformamide | 273 mg, 98% yield | C(C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)N(C=O)C | C16H16N2O2
